US05104876
To a mixture of 4.50 g (15.5 mmol) of 4-(5,6,7,12-tetrahydrobenzocycloocta[1,2-b]pyridin-12-ylidene) piperidine, 2.19 g (15.7 mmol) of isonicotinic acid N-oxide, and 2.33 g (17.2 mmol) of 1-hydroxybenzotriazole hydrate in 30 mL of dry methylene chloride at -15° C. and under a nitrogen atmosphere was added dropwise over 25 min. a solution of 3.26 g (16.9 mmol) of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride in 60 mL of dry methylene chloride. The reaction mixture was slowly allowed to warm to room temperature. After 3 hours the mixture was poured into a solution of 10% aqueous sodium dihydrogen phosphate and extracted with methylene chloride (3x). The combined organic portions were dried over MgSO4, filtered, and concentrated in vacuo to give a product which was purified via flash chromatography to give 1-(4-pyridinyl carbonyl)-4-(5,6,7,12-tetrahydrobenzocycloocta[1,2-b]pyridin-12-ylidene)piperidine N-oxide as a colorless glass.

reactant | 4-(5,6,7,12-tetrahydrobenzocycloocta[1,2-b]pyridin-12-ylidene) piperidine | 15.5 mmol, 4.50 g | N1=C2C(=CC=C1)CCC1=C2C(C=CC=CC1)=C1CCNCC1 | C20H22N2
reactant | isonicotinic acid N-oxide | 15.7 mmol, 2.19 g | C(C1=CC=[N+](C=C1)[O-])(=O)O | C6H5NO3
reactant | 1-hydroxybenzotriazole hydrate | 17.2 mmol, 2.33 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 16.9 mmol, 3.26 g | Cl.CN(CCCN=C=NCC)C
reactant | sodium dihydrogen phosphate | P(=O)(O)(O)[O-].[Na+]
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 60 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-pyridinyl carbonyl)-4-(5,6,7,12-tetrahydrobenzocycloocta[1,2-b]pyridin-12-ylidene)piperidine N-oxide | N1=CC=C(C=C1)C(=O)[N+]1(CCC(CC1)=C1C=CC=CCC2=C1C1=NC=CC=C1CC2)[O-] | C26H25N3O2
